US08541363B2
For compound (A48) (S)-2-((S)-2-Amino-3,3-dimethyl-butyrylamino)-propionic acid ethyl ester was coupled with 1-Methyl-piperidine-4-carboxylic acid using isobutylchloroformate and N-methylmorpholine in DMF to give (S)-2-{(S)-3,3-Dimethyl-2-[(1-methyl-piperidine-4-carbonyl)-amino]-butyrylamino}-propionic acid ethyl ester. This was then quaternised with MeI in DCM-acetone and subsequently hydrolysed using an hydroxide resin such as Ambersep 900-OH resin.

reactant | (S)-2-((S)-2-Amino-3,3-dimethyl-butyrylamino)-propionic acid ethyl ester | C(C)OC([C@H](C)NC([C@H](C(C)(C)C)N)=O)=O | C11H22N2O3
reactant | 1-Methyl-piperidine-4-carboxylic acid | CN1CCC(CC1)C(=O)O | C7H13NO2
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-2-{(S)-3,3-Dimethyl-2-[(1-methyl-piperidine-4-carbonyl)-amino]-butyrylamino}-propionic acid ethyl ester | C(C)OC([C@H](C)NC([C@H](C(C)(C)C)NC(=O)C1CCN(CC1)C)=O)=O | C18H33N3O4
